US05073556
The whole of the 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl chloride [(XIII), R1 =--OCHF2, R3' =NO2, X=X'=F] prepared as described above was dissolved in 150 ml of anhydrous diethyl ether, and this solution was added dropwise, with stirring at room temperature, to the suspension of diethyl ethoxymagnesium malonate. The resulting mixture was then stirred at room temperature for an additional 2 hours. At the end of this time, 100 ml of 1N aqueous hydrochloric acid were added to the reaction mixture, and, after the mixture had been vigorously stirred, the organic layer was separated, washed with water and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure to give 31.2 g of diethyl (3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)malonate [(XIV), R1 =--OCHF2, R3' =NO2, R17 =C2H5, X=X'=F] as a red liquid.

reactant | 3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl chloride | FC(OC=1C(=C(C(=O)Cl)C(=C(C1F)F)[N+](=O)[O-])F)F | C8HClF5NO4
reactant | diethyl ethoxymagnesium malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | diethyl (3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)malonate | 31.2 g | FC(OC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=C(C1F)F)[N+](=O)[O-])F)F | C15H12F5NO8
